US06274613B1
12.9 g of γ-ethoxy-γ-butyrolactam, 10 ml of concentrated sulphuric acid and 90 ml of glacial acetic acid were charged initially at 0° C. and admixed a little at a time with a total of 18.8 g of phenol. After thawing, the mixture was stirred at room temperature for 2 days. For work-Up, the mixture was poured onto ice and extracted three times with ethyl acetate, and the combined extracts were washed once with water and once with saturated aqueous sodium chloride solution, dried and evaporated. After some time, γ-2-hydroxyphenyl-γ-butyrolactam (XI-2b) of melting point 220° C. (6.4 g, 36% of theory) crystallized from the aqueous phase. The residue obtained on evaporation was stirred with 1:1 mixture of cyclohexane/ethyl acetate and afforded on filtration with suction 4.65 g of γ-4-hydroxyphenyl-γ-butyrolactam (XI-2a) of melting point 183° C. The filtrate was evaporated. Recrystallization from dichloromethane/hexane gave a further 3.35 g (total 45% of theory) of γ-4-hydroxyphenyl-γ-butyrolactam.

reactant | γ-ethoxy-γ-butyrolactam | 12.9 g | C(C)OC1CCC(=O)N1 | C6H11NO2
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
reactant | phenol | 18.8 g | C1(=CC=CC=C1)O | C6H6O
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | γ-4-hydroxyphenyl-γ-butyrolactam | 4.65 g | OC1=CC=C(C=C1)C1CCC(=O)N1 | C10H11NO2
